US08865726B2
To a chilled (0° C.) solution of 4-(hydroxymethyl)-4-methyloxazolidin-2-one (629 mg, 4.8 mmol) in anhydrous pyridine (4 ml) was added in portions tosyl chloride (1.05 g, 5.5 mmol). The solution was allowed to warm to ambient temperature and stirred under nitrogen for 48 hours. Water (12 mL) was added dropwise to the reaction mixture, and the resulting suspension was stirred at ambient temperature for 5 hours. The solids were isolated, and dried under vacuum to afford (4-methyl-2-oxooxazolidin-4-yl)methyl 4-methylbenzenesulfonate 1.17 g (86%).

reactant | 4-(hydroxymethyl)-4-methyloxazolidin-2-one | 4.8 mmol, 629 mg | OCC1(NC(OC1)=O)C | C5H9NO3
reactant | tosyl chloride | 5.5 mmol, 1.05 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Water | 12 mL | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | (4-methyl-2-oxooxazolidin-4-yl)methyl 4-methylbenzenesulfonate | 1.17 g, 86% | CC1=CC=C(C=C1)S(=O)(=O)OCC1(NC(OC1)=O)C | C12H15NO5S
